US05861401
A mixture of 5-amino-2,4-dichloropyrimidine (0.32 g) (obtained as described in Chem. Pharm. Bull., (JAPAN), 1958, 6, 343-346) and a solution of sodium methoxide in methanol (from sodium (0.05 g) and methanol (25 ml)) was heated at reflux for 15 minutes and allowed to cool. Volatile material was removed by evaporation and a small volume of water added. The mixture was extracted twice with ether and the combined extracts were dried (MgSO4) and evaporated to give 5-amino-2-chloro-4-methoxypyrimidine (0.2 g) as an oil; 1H NMR (d6 -DMSO): 3.92 (s, 3H), 5.25 (s, 2H), 7.72 (s, 1H); mass spectrum (+ve CI): 160 (M+H)+.

reactant | 5-amino-2,4-dichloropyrimidine | 0.32 g | NC=1C(=NC(=NC1)Cl)Cl | C4H3Cl2N3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 25 ml, 0.05 g | CO | CH4O
product | 5-amino-2-chloro-4-methoxypyrimidine | 0.2 g | NC=1C(=NC(=NC1)Cl)OC | C5H6ClN3O
